US04883802
Preparation of 1- {N - [(2-oxo-1-pyrrolidinyl)acetyl]-glycylglycyl}-4-piperidinecarboxamide
8.01 g of N- [(2-oxo-1-pyrrolidinyl)acetyl] glycine was dissolved in 200 ml of dimethylformamide and the solution was cooled to -15° C., to which 5.57 g of isobutyl chloroformate was added and then 4.09 g of triethylamine was added dropwise at -15° to -5° C. This was stirred at -10° to -5° C. for 15 minutes and 7.41 g of 1 glycyl-4-piperidinecarboxamide was added while maintaining the temperature at -10° to -5° C. The reaction liquid was allowed to stand so as to rise its temperature to room temperature over 2 hours. The solid filtered off was suspended in 300 ml of ethanol and the suspension was stirred for 30 minutes and filtered to obtain the solid. This solid was dissolved in the mixture of 20 ml of water and 100 ml of ethanol with heating. The resultant solution was concentrated to 30 ml under atmospheric pressure and 180 ml of ethanol was added followed by allowing to stand to form the precipitate, which was filtered to obtain the titled compound.

reactant | N- [(2-oxo-1-pyrrolidinyl)acetyl] glycine | 8.01 g | O=C1N(CCC1)CC(=O)NCC(=O)O | C8H12N2O4
reactant | isobutyl chloroformate | 5.57 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 4.09 g | C(C)N(CC)CC | C6H15N
reactant | glycyl-4-piperidinecarboxamide | NCC(=O)N1CCC(CC1)C(=O)N | C8H15N3O2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1- {N - [(2-oxo-1-pyrrolidinyl)acetyl]-glycylglycyl}-4-piperidinecarboxamide | O=C1N(CCC1)CC(=O)NCC(=O)NCC(=O)N1CCC(CC1)C(=O)N | C16H25N5O5
